US06765012B2
3-{[4-(4-Thiomorpholin-4-yl-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 207, 3-{[4-(4-Iodo-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one and thiomorpholine are converted to the named compound.

reactant | 3-{[4-(4-Iodo-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | ICCCCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C19H19IN2O2
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 3-{[4-(4-Thiomorpholin-4-yl-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | N1(CCSCC1)CCCCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C23H27N3O2S
